US04978793
Following the procedure 2(A) described in this application, to a 100 ml round bottom flask equipped with a stir bar and reflux condenser topped with a nitrogen inlet was added 5 g (0.03 mol) tris(hydroxymethyl)nitromethane, 2.86 g (0.04 mol) ethylvinyl ether, 50 ml acetonitrile and 5 drops concentrated HCl. The reaction was heated to 35°-40° C. for 4 hours. After cooling to room temperature the volatiles were removed to give the product, 2-methyl-5-hydroxymethyl-5-nitro-1,3-dioxane, in 86% yield. 1H NMR in CD3OD confirmed the structure.

reactant | tris(hydroxymethyl)nitromethane | 0.03 mol, 5 g | OCC([N+](=O)[O-])(CO)CO | C4H9NO5
reactant | ethylvinyl ether | 0.04 mol, 2.86 g | C(C)OC=C | C4H8O
catalyst | HCl | 5 drops | Cl | ClH
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-methyl-5-hydroxymethyl-5-nitro-1,3-dioxane | 86% yield | CC1OCC(CO1)([N+](=O)[O-])CO | C6H11NO5
